US05055458
A solution of 9-(1-diethoxyphosphorylmethoxy-3-hydroxyprop-2-oxy)adenine (100 mg, 0.27 mmol) in N,N-dimethylformamide (5 ml) was treated with bromotrimethylsilane (0.36 ml, 2.7 mmol) and stirred for 16 hours at 20° C. After this time, t.l.c. (isopropyl alcohol-water-0.88 ammonia, 60:30:10) showed some monoester still present. More bromotrimethylsilane (0.18 ml, 1.35 mmol) was added and the reaction mixture stirred at 20° C. for 2 hours. The solvent was evaporated and the residual brown oil chromatographed on reverse-phase silica, eluting with water, affording 9-(1-hydroxy-3-phosphonomethoxyprop-2-oxy)adenine (65 mg, 76%) as a white solid; m.p. 222°-225° C.; λmax (H2O) 259(ε12,600)nm; νmax (KBr) 3420, 1700, 1650, 1620, 1120, and 1060 cm-1 ; δH [(CD3)2SO] 2.7-4.2(3H, v.br.s, D2O exchangeable, 3 ×OH), 3.64(2H, dJ8.5 Hz, CH2P), 3.67(2H, d, J4.9 Hz, CH2OH), 3.81(2H, d, J4.9 Hz,CH2OCH2P), 4.47(1H, m, CHON), 7.43(2H, br.s, D2O exchangeable, NH2), 8.16(1H, s, H 2/H-8), 8.35(1H, s, H-2/H-8); m/z(FAB+veIon) 320(M+, 100%), 342(MNa+, 24%); Found: C,31 77; H,4.67; N.20.83%; C9H14N5O6P.1.0H2O requires C,32.05; H,4.78; N,20.77%.

reactant | 9-(1-diethoxyphosphorylmethoxy-3-hydroxyprop-2-oxy)adenine | 0.27 mmol, 100 mg | C(C)OP(=O)(OCC)COCC(CO)ON1C2=NC=NC(=C2N=C1)N | C13H22N5O6P
reactant | bromotrimethylsilane | 2.7 mmol, 0.36 ml | Br[Si](C)(C)C | C3H9BrSi
reactant | ammonia | N | H3N
reactant | bromotrimethylsilane | 1.35 mmol, 0.18 ml | Br[Si](C)(C)C | C3H9BrSi
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 9-(1-hydroxy-3-phosphonomethoxyprop-2-oxy)adenine | 65 mg, 76% | OCC(COCP(=O)(O)O)ON1C2=NC=NC(=C2N=C1)N | C9H14N5O6P
